US07625932B2
Preparation of 3-amino-4-cyano-5-ethyl-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester
Alternatively the title compound may be prepared by the following procedure. Charge ethanol (3.40 L, denatured with 0.5% toluene) to a 22 L 3-neck reaction flask equipped with a mechanical stirrer, condenser, addition funnel and cooling bath. Cool the ethanol to 8° C. and add sodium ethoxide (805 grams, 11.35 mol) portion-wise over 20 minutes. In a separate flask, combine sarcosine ethyl ester hydrochloride (697 g, 4.54 mol), 2-(1-ethoxy-propylidene)-malononitrile (681 grams, 4.54 mol, prepared in preparation 35) and ethanol (3.0 L) and stir to dissolve the solids. Add the resulting solution to the 22 L flask over 33 minutes while maintaining about 11 C. Maintain the reaction mixture between 10-20° C. for 3.5 hours. Stir the mixture at room temperature overnight, then cool to 1° C. Adjust the pH to 7.0 by adding 1 N HCl (6.58 L) and stir the resulting suspension at 0-5° C. for 3 hours. Collect the precipitate by filtration, rinse the filter cake with deionized water (1.0 L) and vacuum-dry at 40° C., to afford the title compound in 66.7% yield. Mass spectrum (m/e): 222.4 (M+1).

reactant | sodium ethoxide | 11.35 mol, 805 grams | [O-]CC.[Na+]
reactant | sarcosine ethyl ester hydrochloride | 4.54 mol, 697 g | Cl.C(C)OC(CNC)=O
reactant | 2-(1-ethoxy-propylidene)-malononitrile | 4.54 mol, 681 grams | C(C)OC(CC)=C(C#N)C#N | C8H10N2O
reactant | HCl | 1 N, 6.58 L | Cl | ClH
solvent | ethanol | 3.0 L | C(C)O | C2H6O
solvent | ethanol | 3.40 L | C(C)O | C2H6O
product | 3-amino-4-cyano-5-ethyl-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 66.7% yield | C(C)OC(=O)C=1N(C(=C(C1N)C#N)CC)C | C11H15N3O2
